US07513916B2
1.32 g 2-amino-1H-imidazol-hemisulfate is diazotized in a mixture containing 2 ml hydrochloric acid, 2 ml acetic acid, 12 ml water and 0.7 g sodium nitrate at 5° C. Azo coupling is performed by adding 2.3 g N-(2-bromoethyl)-N-ethylaniline to the above diazonium solution. After stirring for 2 hours at room temperature the mixture is poured on 50 ml saturated sodium bicarbonate. The resulted precipitate is filtered off, washed with water, and dried in vacuum at 40° C. After chromatography on silicagel with ethylacetate, 0.6 g N-(2-bromoethyl)-N-ethyl-4-[(E)-1H-imidazol-2-yldiazenyl]aniline is obtained as a brown powder.

reactant | 2-amino-1H-imidazol-hemisulfate | 1.32 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium nitrate | 0.7 g | [N+](=O)([O-])[O-].[Na+]
reactant | N-(2-bromoethyl)-N-ethylaniline | 2.3 g | BrCCN(C1=CC=CC=C1)CC | C10H14BrN
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | water | 12 ml | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-(2-bromoethyl)-N-ethyl-4-[(E)-1H-imidazol-2-yldiazenyl]aniline | 0.6 g | BrCCN(C1=CC=C(C=C1)\N=N\C=1NC=CN1)CC | C13H16BrN5
